US09023849B2
1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide
Under an argon atmosphere, 0.73 ml (3.35 mmol) of a 25% sodium methoxide solution was initially charged in methanol, and 1.040 g (purity 92%, 3.35 mmol) of 1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile dissolved in 4 ml of absolute methanol were added. The mixture was stirred at RT for 1 h. Subsequently, 215 mg (4.03 mmol) of ammonium chloride and 786 mg (13.08 mmol) of acetic acid were added and the mixture was heated to reflux for 2 h. The reaction mixture was concentrated, and the residue was admixed with 10 ml of ethyl acetate and 15 ml of water and basified (pH=10) with 2N sodium hydroxide solution. The mixture was stirred at RT for 1 h, water was added and the mixture was extracted with ethyl acetate. The organic phase was dried over sodium sulphate, concentrated and dried under high vacuum. 840 mg (purity 85%, 70% of theory) of the target compound were obtained.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile | 3.35 mmol, 1.040 g | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C#N)C=CC=C1F | C14H9F2N5
reactant | ammonium chloride | 4.03 mmol, 215 mg | [Cl-].[NH4+]
reactant | acetic acid | 13.08 mmol, 786 mg | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | methanol | 4 ml | CO | CH4O
product | 1-(2,3-Difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(N)=N)C=CC=C1F | C14H12F2N6
